US04734419
A mixture of 2H-3,1-benzoxazine-2,4(1H)dione (20 g) and 3,4-dichlorobenzylamine (16.4 ml) in benzene (200 ml) was refluxed for 3 hours. After cooling, the solvent was removed under reduced pressure to give a residue, which was recrystallized from n-hexane-ethyl acetate (1:2) to afford 2-amino-N-(3,4-dichlorobenzyl)benzamide (30.5 g).

reactant | 2H-3,1-benzoxazine-2,4(1H)dione | 20 g | N1C(OC(C2=C1C=CC=C2)=O)=O | C8H5NO3
reactant | 3,4-dichlorobenzylamine | 16.4 ml | ClC=1C=C(CN)C=CC1Cl | C7H7Cl2N
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
product | 2-amino-N-(3,4-dichlorobenzyl)benzamide | 30.5 g | NC1=C(C(=O)NCC2=CC(=C(C=C2)Cl)Cl)C=CC=C1 | C14H12Cl2N2O
